US07737149B2
3-Bromoprop-1-ene (0.433 mL, 5.00 mmol) was added to a stirred solution of ethyl 4-(1,4-diazepan-1-yl)benzoate (1.242 g, 5 mmol) and DIPEA (2.183 mL, 12.50 mmol) in dichloromethane (20 mL). The reaction mixture was stirred under nitrogen at room temperature for 24 h. This was diluted with dichloromethane (20 mL), washed with water (2×25 ml) and saturated sodium chloride solution (20 ml), dried over MgSO4, filtered and evaporated to dryness. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 5% 2.5M ammonia/MeOH in DCM. Pure fractions were evaporated to dryness to afford ethyl 4-(4-allyl-1,4-diazepan-1-yl)benzoate (0.700 g, 48.5%) as a yellow oil.

reactant | 3-Bromoprop-1-ene | 5.00 mmol, 0.433 mL | BrCC=C | C3H5Br
reactant | ethyl 4-(1,4-diazepan-1-yl)benzoate | 5 mmol, 1.242 g | N1(CCNCCC1)C1=CC=C(C(=O)OCC)C=C1 | C14H20N2O2
reactant | DIPEA | 12.50 mmol, 2.183 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | ethyl 4-(4-allyl-1,4-diazepan-1-yl)benzoate | 0.700 g, 48.5% | C(C=C)N1CCN(CCC1)C1=CC=C(C(=O)OCC)C=C1 | C17H24N2O2
